US08685977B2
5-chloro-4-[4-chloro-2-(1-methyl-1H-pyrazol-5-yl)phenoxy]-2-fluorobenzamide
To a solution of 5-chloro-4-[4-chloro-2-(1-methyl-1H-pyrazol-5-yl)phenoxy]-2-fluorobenzonitrile (Preparation 19, 290 mg, 0.801 mmol) in DMSO (0.8 mL) was added hydrogen peroxide (545 μL, 16 mmol) followed by potassium carbonate (221 mg, 1.60 mmol). The reaction was stirred at room temperature for 18 hours. The reaction was then purified directly using trilution reverse phase chromatography to furnish the title compound (320 mg, 105%).

reactant | 5-chloro-4-[4-chloro-2-(1-methyl-1H-pyrazol-5-yl)phenoxy]-2-fluorobenzonitrile | 0.801 mmol, 290 mg | ClC=1C(=CC(=C(C#N)C1)F)OC1=C(C=C(C=C1)Cl)C1=CC=NN1C | C17H10Cl2FN3O
reactant | hydrogen peroxide | 16 mmol, 545 μL | OO | H2O2
reactant | potassium carbonate | 1.60 mmol, 221 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 0.8 mL | CS(=O)C | C2H6OS
product | 5-chloro-4-[4-chloro-2-(1-methyl-1H-pyrazol-5-yl)phenoxy]-2-fluorobenzamide | 320 mg, 105% | ClC=1C(=CC(=C(C(=O)N)C1)F)OC1=C(C=C(C=C1)Cl)C1=CC=NN1C | C17H12Cl2FN3O2
